US05756510
3-(5-Bromopentyloxy)benzamide (Compound NU1019)
A mixture of 3-hydroxybenzamide (0.5 g, 3.65 mmol), 1,5-dibromopentane (1.82 g, 1.1 ml, 7.3 mmol) and potassium carbonate (500 mg, 3.65 mmol) was refluxed (2h) in acetonitrile (18 ml) until the reaction was complete by TLC. The solvent was then removed by rotary evaporation to leave a white sticky solid which was chromatographed (10% methanol in dichloromethane on silica) to give a white solid. This was recrystallised from a mixture of petrol and ethyl acetate to give white flaky crystals (0.744 g, 2.6 mmol, 70% yield). mp 98°-99° C.

reactant | 3-hydroxybenzamide | 3.65 mmol, 0.5 g | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | 1,5-dibromopentane | 7.3 mmol, 1.1 ml, 1.82 g | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 3.65 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
product | 3-(5-Bromopentyloxy)benzamide | 2.6 mmol, 0.744 g, 70% yield | BrCCCCCOC=1C=C(C(=O)N)C=CC1 | C12H16BrNO2
